US04684648
To a solution of diethyl (2-bromo-4,5-difluorobenzoyl)malonate (75.6 g) in water (100 ml) is added p-toluenesulfonic acid (0.3 g), and the mixture is refluxed for 3 hours. After cooling, the reaction mixture is extracted with dichloromethane. The dichloromethane layer is washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. After distilling off the solvent under reduced pressure, the residue is distilled to give ethyl (2-bromo-4,5-difluorobenzoyl)acetate (52.0 g), b.p. 105°-115° C. (0.15 mmHg).

reactant | diethyl (2-bromo-4,5-difluorobenzoyl)malonate | 75.6 g | BrC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C(=C1)F)F | C14H13BrF2O5
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | 100 ml | O | H2O
product | ethyl (2-bromo-4,5-difluorobenzoyl)acetate | 52.0 g | BrC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)F)F | C11H9BrF2O3
